US05189054
Dissolve 3-[(phenacyl)methylamino]-2-carbethoxy-6-fluoro-1-(tert-butyloxycarbonyl)-indole from above in methylene chloride (10 mL). Add trifluoracetic acid (3 mL) and stir for 4 hours at room temperture. Dilute with ethyl acetate (50 mL) and rinse with 1N sodium hydroxide, saturated sodium chloride, dry over magnesium sulfate, filter and concentrate in vacuo to yield 3-[(phenacyl)methylamino]-2-carbethoxy-6-fluoroindole.

reactant | 3-[(phenacyl)methylamino]-2-carbethoxy-6-fluoro-1-(tert-butyloxycarbonyl)-indole | C(C(=O)C1=CC=CC=C1)CNC1=C(N(C2=CC(=CC=C12)F)C(=O)OC(C)(C)C)C(=O)OCC | C25H27FN2O5
reactant | trifluoracetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 3-[(phenacyl)methylamino]-2-carbethoxy-6-fluoroindole | C(C(=O)C1=CC=CC=C1)CNC1=C(NC2=CC(=CC=C12)F)C(=O)OCC | C20H19FN2O3
